*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7T(-55to125[deg])/4.70e+00[uF]/10[V]
* Murata P/N :GRM155D71A475ME15
* Property : C = 4.70e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155D71A475ME15 Port1 Port2
C01 Port1 N01 3.34e-06
R01 Port1 N01 1.06e+07
L02 N01 N02 1.54e-10
R03 N02 N03 4.98e-03
C04 N03 N04 3.31e-04
R04 N03 N04 5.58e+00
C05 N04 N05 2.52e-04
R05 N04 N05 2.94e+00
C06 N05 N06 2.29e-04
R06 N05 N06 5.81e-01
C07 N06 N07 2.25e-04
R07 N06 N07 1.26e-01
C08 N07 N08 1.70e-04
R08 N07 N08 3.16e-02
C09 N08 N09 1.10e-04
R09 N08 N09 7.93e-03
L10 N09 N10 9.21e-12
R10 N09 N10 3.42e-01
L11 N10 N11 2.17e-11
R11 N10 N11 8.36e-02
L12 N11 N12 2.09e-11
R12 N11 N12 2.31e-02
L13 N12 N13 2.22e-10
R13 N12 N13 2.16e-02
C14 N13 N14 3.33e-05
L14 N13 N14 1.61e-11
R14 N13 N14 3.13e-03
C15 N14 Port2 5.54e-06
L15 N14 Port2 4.84e-11
R15 N14 Port2 5.61e-03
.ENDS GRM155D71A475ME15
